US09212182B2
A flask was charged with (1R,2R,4R)-ethyl 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylate (3.91 g, 23.25 mmol) and ethanol (35 mL). The solution was degassed with nitrogen for 5 minutes, then palladium on carbon (5 wt. % wet) (1.0 g, 0.470 mmol) was added portionwise. The flask was evacuated and backfilled three times with nitrogen, then evacuated and backfilled with hydrogen (balloon). The reaction was stirred overnight at room temperature. The reaction was filtered through a plug of Celite and washed several times with ethanol, making sure to keep the catalyst wet with solvent (a layer of sand was added after the first wash). The filtrate was concentrated to afford (1R,2R,4S)-ethyl 7-oxabicyclo[2.2.1]heptane-2-carboxylate (3.63 g, 21.33 mmol, 92% yield). 1H NMR (400 MHz, CHLOROFORM-d) S=4.82 (d, J=5.0 Hz, 1H), 4.72 (t, J=5.0 Hz, 1H), 4.66 (t, J=5.0 Hz, 1H), 4.63-4.59 (m, 1H), 4.22-4.10 (m, 3H), 3.08-2.97 (m, 1H), 2.59 (dd, J=4.9, 9.1 Hz, 1H), 2.14 (dtd, J=2.6, 5.0, 12.3 Hz, 1H), 1.95-1.87 (m, 1H), 1.83-1.63 (m, 4H), 1.62-1.41 (m, 3H), 1.34-1.21 (m, 4H)

reactant | (1R,2R,4R)-ethyl 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylate | 23.25 mmol, 3.91 g | [C@H]12[C@@H](C[C@H](C=C1)O2)C(=O)OCC | C9H12O3
catalyst | palladium on carbon | 0.470 mmol, 1.0 g | [Pd] | Pd
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | (1R,2R,4S)-ethyl 7-oxabicyclo[2.2.1]heptane-2-carboxylate | 21.33 mmol, 3.63 g, 92% yield | [C@H]12[C@@H](C[C@H](CC1)O2)C(=O)OCC | C9H14O3
